US08314138B2
Synthesis of 2-{1-[2-(4-fluoro-phenyl)-ethyl]-5-methyl-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide
The title compound was prepared from 4-methyl-2-[5-methyl-2H-pyrazol-3-yl]-thiazole-5-carboxylic acid 4-fluoro-benzylamide and 1-[2-(4-fluoro-phenyl)-ethyl]-3-iodo-5-methyl-1H-pyrazole as described in Example 93 and isolated as a white solid (0.035 g, 14% yield). 1H NMR (400 MHz, CDCl3) δ 7.23-7.27 (m, 2H), 6.98 (t, J=8 Hz, 2H), 6.82-6.90 (m, 4H), 6.41 (s, 1H), 5.92-6.00 (bm, 1H), 4.50 (d, J=4 Hz, 2H), 4.15 (t, J=6 Hz, 2H), 3.05 (t, J=6, 2H), 2.68 (s, 3H), 1.84 (s, 3H); MS (M+H)+=452.9; Rt=1.56 min; HRMS (M+H)+=453.16.

reactant | 4-methyl-2-[5-methyl-2H-pyrazol-3-yl]-thiazole-5-carboxylic acid 4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C=2NN=C(C2)C)C)C=C1 | C16H15FN4OS
reactant | 1-[2-(4-fluoro-phenyl)-ethyl]-3-iodo-5-methyl-1H-pyrazole | FC1=CC=C(C=C1)CCN1N=C(C=C1C)I | C12H12FIN2
product | 2-{1-[2-(4-fluoro-phenyl)-ethyl]-5-methyl-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NN(C(=C2)C)CCC2=CC=C(C=C2)F)C)C=C1 | C24H22F2N4OS
